US04628045
Asp-Lys-Ser-Arg-OMe is treated with a saturated solution of ammonia in methanol at room temperature for 2 days. The solvent is removed in vacuo to afford Asp-Lys-Ser-Arg-NH2.

reactant | Asp-Lys-Ser-Arg-OMe | N[C@@H](CC(O)=O)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OC | C20H38N8O8
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | Asp-Lys-Ser-Arg-NH2 | N[C@@H](CC(O)=O)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N | C19H37N9O7
